US04894386
Trifluoroacetic acid (20 ml), pre-cooled to 0°, was added slowly to a stirred solution of methyl E-4-[6-[2-(t-butoxycarbonyl)prop-1-enyl]-3-propylindol-1-ylmethyl]benzoate (1.22 g) in methylene chloride (10 ml) at 0° under an atmosphere of nitrogen. The mixture was stirred at 0° for 1.5 hr, then carefully evaporated at room temperature to give an oil which was crystallized from ether to give methyl E-4-[6-(2-carboxyprop-1-enyl)-3-propylindol-1-ylmethyl]-3-methoxybenzoate (0.94 g, 87%) as a yellow powder; mp 167°-169°; partial NMR (300 MHz, DMSO-d6): 0.94(t, 2H, CH2CH3), 1.65(m, 2H, CH2CH3), 2.03(d, 3H, C(CH3)), 2.65(t, 2H, CH2CH2CH3), 3.82(s, 3H, OCH3), 3.93(s, 3H, OCH3 ), 5.40(s, 2H, NCH2), 12.30(br s, about 1H, COOH).

reactant | Trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | methyl E-4-[6-[2-(t-butoxycarbonyl)prop-1-enyl]-3-propylindol-1-ylmethyl]benzoate | 1.22 g | C(C)(C)(C)OC(=O)/C(=C/C1=CC=C2C(=CN(C2=C1)CC1=CC=C(C(=O)OC)C=C1)CCC)/C | C28H33NO4
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | methyl E-4-[6-(2-carboxyprop-1-enyl)-3-propylindol-1-ylmethyl]-3-methoxybenzoate | 0.94 g, 87% | C(=O)(O)/C(=C/C1=CC=C2C(=CN(C2=C1)CC1=C(C=C(C(=O)OC)C=C1)OC)CCC)/C | C25H27NO5
